* D-Flip-Flop Transient Simulation

.lib "/home/onur/.ciel/ciel/sky130/versions/0fe599b2afb6708d281543108caf8310912f54af/sky130A/libs.tech/ngspice/sky130.lib.spice" tt
.include D_FF_pe.spice 

Vdd VPWR VGND 1.8V
Vss VGND 0 0V

Vpb VPB VGND 1.8V
Vnb VNB VGND 0V

* Clock Signal (CLK): 100 MHz (10ns period), 50ps rise/fall time
Vclk CLK VGND PULSE(0 1.8 0ns 50ps 50ps 4.95ns 10ns)

* Data Signal (D): Custom period to change asynchronously relative to the clock signal
Vd D VGND PULSE(0 1.8 2ns 50ps 50ps 13ns 27ns)

X1 CLK VNB VPB VPWR VGND D Q QN D_FF_pe 

Cload1 Q VGND 10f
Cload2 QN VGND 10f

* Simulate for a total of 100 nanoseconds with 10-picosecond steps
.tran 10ps 100ns

.control
    run
   plot D CLK+2.5 Q+5 QN+7.5
.endc

.end