* NGSPICE file created from inverter.ext - technology: sky130A

.subckt inverter VGND VNB VPB VPWR Y A
X0 Y A VGND VNB sky130_fd_pr__nfet_01v8 ad=0.162 pd=1.65 as=0.162 ps=1.65 w=0.5 l=0.15
X1 Y A VPWR VPB sky130_fd_pr__pfet_01v8 ad=0.275 pd=2.34 as=0.275 ps=2.34 w=0.845 l=0.15
C0 VPWR VPB 0.051f
C1 VGND VPB 0.00642f
C2 Y VPWR 0.0824f
C3 VGND Y 0.0705f
C4 A VPB 0.0499f
C5 VGND VPWR 0.0296f
C6 Y A 0.062f
C7 Y VPB 0.02f
C8 A VPWR 0.041f
C9 VGND A 0.0455f
.ends

