* Sky130 Inverter Transient Testbench

.lib "/home/onur/.ciel/ciel/sky130/versions/0fe599b2afb6708d281543108caf8310912f54af/sky130A/libs.tech/ngspice/sky130.lib.spice" tt
.include inverter.spice

VVDD VPWR 0 1.8V
VVSS VGND 0 0V

* Syntax: PULSE(V_initial V_peak Delay Rise_time Fall_time Pulse_width Period)
VA A 0 PULSE(0 1.8 1n 100p 100p 5n 10n)

Xinv VGND VGND VPWR VPWR Y A inverter

Cload Y 0 10f

.control
tran 10ps 20ns

plot v(A) v(Y)

plot -i(VVDD) 
.endc

.end