* Sky130 Inverter VTC Testbench

.lib "/home/onur/.ciel/ciel/sky130/versions/0fe599b2afb6708d281543108caf8310912f54af/sky130A/libs.tech/ngspice/sky130.lib.spice" tt
.include inverter.spice

VVDD VPWR 0 1.8V
VVSS VGND 0 0V

VA A 0 DC 0V

Xinv VGND VGND VPWR VPWR Y A inverter

Cload Y 0 10f

.dc VA 0 1.8 0.01

.control
  .dc VA 0 1.8 0.001
  run

  * 1. VTC Curve
  plot v(Y) vs v(A) title "Inverter VTC Curve"

  * 2. Voltage Gain Curve
  let gain = deriv(v(Y))
  plot gain vs v(A) title "Inverter Voltage Gain (dVout / dVin)"

  * 3. Threshold Voltage Measurement (Vin = Vout point)
  meas dc V_inv find v(A) when v(A)=v(Y)
  print V_inv
.endc

.end