* SkyWater 130nm XNOR Gate Transient Testbench

.lib "/home/onur/.ciel/ciel/sky130/versions/0fe599b2afb6708d281543108caf8310912f54af/sky130A/libs.tech/ngspice/sky130.lib.spice" tt

.include "Mux.spice" 

Vdd VPWR 0 1.8V
Vss VGND 0 0V


Va A 0 PULSE(0 1.8 0 100p 100p 5ns 10ns)       
Vb B 0 PULSE(0 1.8 0 100p 100p 10ns 20ns)     
Vsel S 0 PULSE(0 1.8 0 100p 100p 20ns 40ns)

XMux1  VGND VNB VPB VPWR Y A B S Mux

Cload Y 0 10fF

.tran 10p 40n

.control
tran 10p 100n

run
plot V(A) V(B)+2 V(S)+4 V(Y)+6

plot -i(Vdd)
.endc
.end