* SkyWater 130nm 2:1 MUX VTC For B Testbench

.lib "/home/onur/.ciel/ciel/sky130/versions/0fe599b2afb6708d281543108caf8310912f54af/sky130A/libs.tech/ngspice/sky130.lib.spice" tt
.include Mux.spice 

Vdd VPWR 0 1.8V
Vss VGND 0 0V
Vpb VPB  0 1.8V
Vnb VNB  0 0V

* Set the S and B pins to 0V or 1.8V depending on which MUX channel you want to test
Vs S VPWR 1.8V

Va A 0 0V
Vb B 0 0V

XMUX VGND VNB VPB VPWR Y A B S Mux

.dc Vb 0 1.8 0.01

.control
  run
  
  * VTC Graph
  plot v(Y) vs v(B) title "2:1 MUX VTC Curve"

  * Gain calculation and plotting commands
  let gain = deriv(v(Y))
  plot gain vs v(B) title "2:1 MUX Voltage Gain"

  * V_inv (Threshold Voltage: point where Vin = Vout)
  meas dc V_inv find v(B) when v(B)=v(Y)
  
  print V_inv
.endc
.end