* Sky130 NAND2 Transient Testbench
.lib "/home/onur/.ciel/ciel/sky130/versions/0fe599b2afb6708d281543108caf8310912f54af/sky130A/libs.tech/ngspice/sky130.lib.spice" tt

.include "Nand_gate.spice"

* --- Power Supplies ---
VVDD VPWR 0 DC 1.8V
VVSS VGND 0 DC 0V
VVPB VPB  0 DC 1.8V
VVNB VNB  0 DC 0V

* --- Input Signals ---
VB B 0 PULSE(0 1.8 0 100p 100p 10n 20n)
VA A 0 PULSE(0 1.8 0 100p 100p 5n 10n)

* --- Circuit Instance ---
XNAND VGND VNB VPB VPWR A Y B Nand_gate

* --- Load Capacitance ---
Cload Y 0 10f

* --- Simulation Commands ---
.control
  tran 10ps 20ns

  plot v(A) v(B)+2 v(Y)+4

  * VDD source current (i(VVDD)) yields the power consumption
  plot -i(VVDD)  
.endc

.end