* Sky130 NAND2 VTC (Voltage Transfer Curve) Testbench
.lib "/home/onur/.ciel/ciel/sky130/versions/0fe599b2afb6708d281543108caf8310912f54af/sky130A/libs.tech/ngspice/sky130.lib.spice" tt

.include "Nand_gate.spice"

* --- Power Supplies ---
VVDD VPWR 0 DC 1.8V
VVSS VGND 0 DC 0V
VVPB VPB  0 DC 1.8V
VVNB VNB  0 DC 0V

* --- Input Signals ---
* Fix input B to logic high (1.8V) so the NAND gate behaves as an inverter when A sweeps
VB B 0 DC 1.8V
VA A 0 DC 0V

* --- Circuit Instance ---
XNAND VGND VNB VPB VPWR A Y B Nand_gate

* --- DC Analysis (VTC Sweep) ---
* Sweep input A from 0V to 1.8V with 1mV steps
.dc VA 0 1.8 0.001

* --- Simulation Commands ---
.control
  run

  plot v(Y) vs v(A) title "NAND Gate VTC Curve (A Input Sweep, B=1.8V)"
  
  * Gain calculation (Gain = d(Vout)/d(Vin))
  let gain = deriv(v(Y))
  plot gain vs v(A) title "Voltage Gain (dVout / dVin)"
  
  * V_inv (Threshold Voltage: point where Vin = Vout)
  meas dc V_inv find v(A) when v(A)=v(Y)
  
  print V_inv
.endc

.end