* NGSPICE file created from Nor_gate.ext - technology: sky130A

.subckt Nor_gate VGND VNB VPB VPWR A B Y
X0 a_110_297# A VPWR VPB sky130_fd_pr__pfet_01v8 ad=0.14 pd=1.28 as=0.265 ps=2.53 w=1 l=0.15
X1 VGND B Y VNB sky130_fd_pr__nfet_01v8 ad=0.167 pd=1.79 as=0.0882 ps=0.91 w=0.63 l=0.15
X2 Y A VGND VNB sky130_fd_pr__nfet_01v8 ad=0.0882 pd=0.91 as=0.167 ps=1.79 w=0.63 l=0.15
X3 Y B a_110_297# VPB sky130_fd_pr__pfet_01v8 ad=0.265 pd=2.53 as=0.14 ps=1.28 w=1 l=0.15
C0 B A 0.0503f
C1 Y A 0.0452f
C2 A VPWR 0.0519f
C3 Y B 0.0865f
C4 VPB A 0.0378f
C5 B VPWR 0.00781f
C6 Y a_110_297# 0.0147f
C7 VPB B 0.0386f
C8 Y VPWR 0.159f
C9 Y VPB 0.0149f
C10 VGND A 0.0496f
C11 VPWR a_110_297# 0.00392f
C12 VPB VPWR 0.0422f
C13 VGND B 0.0484f
C14 VGND Y 0.154f
C15 VGND a_110_297# 4.53e-19
C16 VGND VPWR 0.0308f
C17 VGND VPB 0.00474f
.ends

