* Sky130 NOR2 Transient Testbench
.lib "/home/onur/.ciel/ciel/sky130/versions/0fe599b2afb6708d281543108caf8310912f54af/sky130A/libs.tech/ngspice/sky130.lib.spice" tt

.include "Nor_gate.spice"

* --- Power Supplies ---
VVDD VPWR 0 DC 1.8V
VVSS VGND 0 DC 0V
VVPB VPB  0 DC 1.8V
VVNB VNB  0 DC 0V

* --- Input Signals ---
Va A 0 pulse(0 1.8 0ns 100ps 100ps 5ns 10ns)
Vb B 0 pulse(0 1.8 0ns 100ps 100ps 10ns 20ns)

* --- Circuit Instance ---
XDUT VGND VNB VPB VPWR A B Y Nor_gate

* --- Load Capacitance ---
Cload Y 0 10f

* --- Transient Analysis ---
.tran 10p 20n

.control
  run

  plot v(a) v(b)+2 v(y)+4

  * VDD source current (i(VVDD)) yields the power consumption
  plot -i(vvdd)
.endc

.end