* SkyWater 130nm XNOR Gate Transient Testbench

.lib "/home/onur/.ciel/ciel/sky130/versions/0fe599b2afb6708d281543108caf8310912f54af/sky130A/libs.tech/ngspice/sky130.lib.spice" tt

.include "Xnor.spice" 

Vdd VPWR 0 1.8V
Vss VGND 0 0V

Vb B 0 PULSE(0 1.8 10n 100p 100p 10n 20n)
Va A 0 PULSE(0 1.8 20n 100p 100p 20n 40n)

XX1 VPWR VGND VGND VPWR A B Y Xnor

Cload Y 0 10f

.control
tran 10p 40n

plot v(A) v(B)+2 V(Y)+4


plot -i(Vdd)
.endc
.end